US05811444
1-((6-chloro-1,3-benzodioxol-5-yl)methyl)2-methyl-1H-imidazole
The operation is carried out as in Stage 1 of Example 11 starting with 12.3 g of 2-methyl-1H-imidazole, 7.92 g of sodium hydride with 50% oil, 150 ml of N dimethylformamide and 33.8 g of 6-chloropiperonyl chloride.

reactant | 2-methyl-1H-imidazole | 12.3 g | CC=1NC=CN1 | C4H6N2
reactant | sodium hydride | 7.92 g | [H-].[Na+]
reactant | 6-chloropiperonyl chloride | 33.8 g | C1OC2=C(O1)C=C(C(=C2)CCl)Cl | C8H6Cl2O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-((6-chloro-1,3-benzodioxol-5-yl)methyl)2-methyl-1H-imidazole | ClC=1C(=CC2=C(OCO2)C1)CN1C(=NC=C1)C | C12H11ClN2O2
